US08497370B2
Preparation of Sildenafil-L-Arginine Complex
In a flask equipped with a magnetic stirrer, Sildenafil HCl (8.8 g) is dissolved in a mixture of ethanol (100 mL) and water (30 mL), added an ethanol solution of Arginine sodium then reacted at 50° C. for 60 mins. After cooling, a white precipitate is obtained and the sodium chloride is removed by filtration. The methanol is added under room temperature and being incubated over night for re-precipitation. The Sildenafil-L-Arginine complex salt (10.8 g) is obtained after filtering the crystal.

reactant | Sildenafil HCl | 8.8 g | CCCC1=NN(C2=C1NC(=NC2=O)C3=C(C=CC(=C3)S(=O)(=O)N4CCN(CC4)C)OCC)C.Cl
reactant | Arginine sodium | [Na].N[C@@H](CCCNC(N)=N)C(=O)O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
product | Sildenafil L-Arginine | 10.8 g | CCCC=1C2=C(N(N1)C)C(=O)NC(=N2)C=3C=C(C=CC3OCC)S(=O)(=O)N4CCN(CC4)C.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C22H30N6O4S.C6H14N4O2/c1-5-7-17-19-20(27(4)25-17)22(29)24-21(23-19)16-14-15(8-9-18(16)32-6-2)33(30,31)28-12-10-26(3)11-13-28;7-4(5(11)12)2-1-3-10-6(8)9/h8-9,14H,5-7,10-13H2,1-4H3,(H,23,24,29);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t;4-/m.0/s1
